US07671050B2
B11. 6-Chloro-3-(3-phenoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazine
2.5 g benzoic acid (4-chloro-2H-phthalazin-1-ylidene)-hydrazide and 1 g triethylamine hydrochloride are suspended in 60 ml ethylene glycol and stirred at 130° C. for 3 h. The reaction mixture is cooled to ambient temperature and added to 600 ml water. The product is extracted with dichloromethane, the organic layer is dried with sodium sulphate and concentrated under reduced pressure. The residue is recrystallized from N,N-dimethylformamide to give the title compound.

reactant | benzoic acid (4-chloro-2H-phthalazin-1-ylidene)-hydrazide | 2.5 g | ClC1=NNC(C2=CC=CC=C12)=NNC(C1=CC=CC=C1)=O | C15H11ClN4O
reactant | triethylamine hydrochloride | 1 g | Cl.C(C)N(CC)CC
reactant | water | 600 ml | O | H2O
solvent | ethylene glycol | 60 ml | C(CO)O | C2H6O2
product | 6-Chloro-3-(3-phenoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC(=CC=C2)OC2=CC=CC=C2 | C21H13ClN4O
